US06329389B1
2-Bromoacetylbenzofuran
Pyridinium bromide perbromide (20 g) was added to a THF solution (200 ml) of 2-acetylbenzofuran (8.35 g). The reaction mixture was stirred at room temperature for 20 minutes. The precipitated crystals were collected by filtration, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=4/1) to obtain the entitled compound (6.5 g).

reactant | Pyridinium bromide perbromide | 20 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 2-acetylbenzofuran | 8.35 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-Bromoacetylbenzofuran | 6.5 g | BrCC(=O)C=1OC2=C(C1)C=CC=C2 | C10H7BrO2
